Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS: 
___ 11:00PM BLOOD WBC-7.5 RBC-3.95 Hgb-11.5 Hct-35.4 MCV-90 
MCH-29.1 MCHC-32.5 RDW-11.4 RDWSD-37.1 Plt ___
___ 11:00PM BLOOD Neuts-43.0 ___ Monos-6.8 Eos-1.7 
Baso-0.8 Im ___ AbsNeut-3.24 AbsLymp-3.56 AbsMono-0.51 
AbsEos-0.13 AbsBaso-0.06
___ 11:00PM BLOOD Glucose-346* UreaN-9 Creat-0.7 Na-137 
K-3.9 Cl-104 HCO3-22 AnGap-11
___ 11:00PM BLOOD ALT-10 AST-15 AlkPhos-48 TotBili-0.3
___ 11:00PM BLOOD Albumin-4.2
___ 11:00PM BLOOD TSH-5.3*
___ 11:00PM BLOOD Free T4-1.4
___ 06:33AM BLOOD %HbA1c-9.5* eAG-226*
___ 11:07PM BLOOD Lactate-1.0

___ 05:04PM URINE Color-Straw Appear-Clear Sp ___
___ 05:04PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-TR* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

STUDIES: 

CHEST (PA & LAT) Study Date of ___  
No evidence of pneumonia.

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___  

Normal abdominal ultrasound.

DISCHARGE LABS: 
___ 09:54AM BLOOD WBC-5.3 RBC-3.83* Hgb-11.1* Hct-34.7 
MCV-91 MCH-29.0 MCHC-32.0 RDW-11.7 RDWSD-38.6 Plt ___
___ 09:54AM BLOOD Glucose-231* UreaN-8 Creat-0.7 Na-142 
K-4.2 Cl-107 HCO3-25 AnGap-10
___ 09:54AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ year old female who presented from ___ 
___ with RUQ abdominal pain. 

ACUTE ISSUES:
=============
# RUQ Abdominal pain 
She presented to OSH multiple times recently for RUQ pain. 
Initial concern was for cholecystitis or gallbladder pathology. 
U/S and CT A/P did not reveal stones, sludge, or wall 
thickening, however. She also had HIDA scan outpatient that was 
overall unremarkable but note that "The slender appearance of 
the gallbladder precluded evaluation for ejection fracture." At 
___, RUQ U/S was again normal and LFTs were normal. She was 
evaluated by ACS in ED who did not recommend any operative 
intervention. She was admitted for ongoing abdominal pain, 
nausea, with inability to tolerate PO. Differential includes 
functional abdominal pain, gastroparesis, functional gallbladder 
disorder, biliary dyskinesis, IBS (reports alternating 
constipation and diarrhea), MSK etiology (pain worse with 
movement, positional, pinpoint tenderness over rib), or even 
psychosomatic component (abdominal pain starts immediately as 
she puts food in her mouth) perhaps related to an adjustment 
disorder in the setting of chronic illness (Type 1 diabetes). 
She was treated with tylenol, Toradol, zofran, reglan. After 
eating the night of ___ she asked to be discharged. Given 
her improvement in symptoms and ability to tolerate PO intake, 
she was released from the hospital.

# Type 1 diabetes 
She was hypoglycemic in ED to ___ in setting of limited PO. She 
was seen by ___ this admission for her insulin pump. She had 
good understanding of her pump and knows to decrease her basal 
insulin by 50% if truly NPO. 

CHRONIC ISSUES:
===============
# Hypothyroidism: Continued synthroid

# Recurrent vulvovaginal candidasis: Continued fluconazole once 
weekly x 6 weeks

# Asthma: Continued albuterol PRN for dyspnea

TRANSITIONAL ISSUES: 
=====================

[] Monitor blood sugar control. A1C 9.5% this admission. 
[] Monitor for recurrence of abdominal pain. Recommending 
avoiding opioids which could ultimately cause harm if the issue 
becomes chronic. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 
3. Fluconazole 150 mg PO 1X/WEEK (TH) 
4. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)
Target glucose: 80-180

 
Discharge Medications:
1.  Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)

Basal Rates:
  Midnight - 8PM:  .5 Units/Hr
  8PM - midnight:  .55 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:22
  Lunch = 1:22
  Dinner = 1:22
  Snacks = 1:22
High Bolus:
  Correction Factor = 1:100
  Correct To ___ mg/dL

 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea  
3.  Fluconazole 150 mg PO 1X/WEEK (TH)  
4.  Levothyroxine Sodium 112 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Abdominal pain

SECONDARY DIAGNOSES
Type I DM
Hypothyroidism
Vulvovaginal candiasis 
Asthma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were sent to ___ for abdominal pain and to be evaluated by 
surgery. Surgery did not feel that you had any infection or 
blockage in your gallbladder. 

You were given pain medications. While you were not eating much, 
the ___ Diabetes service was consulted who adjusted your 
insulin pump settings. 

Since you were eating and drinking well, we felt you were safe 
to go home. Please continue to monitor your blood sugars and 
adjust your insulin pump per your Endocrinologist's 
recommendations.

It was a pleasure caring for you.

Sincerely,

Your ___ Healthcare Team
 
Followup Instructions:
___